* H:\myne\publications\6\simulations\actual circuit\push-pull_actual_caps.sxsch
*#SIMETRIX
V1 R4_P 0 5
R1 R2_N 0 10k
R2 R4_P R2_N 1k
R3 R4_N 0 10k
R4 R4_P R4_N 1k
L1 Q1_D L3_N 68u IC=10m  BRANCH={IF(ANALYSIS=2,0,1)}
L2 L3_N L2_N 68u  
L3 R4_P L3_N 220u  
X$Q1 Q1_D R4_N 0 irfp250n pinnames: D G S
X$Q2 L2_N R2_N 0 irfp250n pinnames: D G S
C1 L2_N Q1_D 100n  
C2 L2_N R4_N 10n  
C3 R2_N Q1_D 10n  
.GRAPH L2_N curveLabel="Q2-D" nowarn=true ylog=auto xlog=auto 
.GRAPH Q1_D curveLabel="Q1-D" nowarn=true ylog=auto xlog=auto 
E$Probe3$TP_DIFFPRB 1 0 L2_N Q1_D 1 
.graph 1 Curvelabel = "Diff Probe" nowarn=true yunit="V" 
.TRAN 100n 5m UIC
.OPTIONS Noraw

